US04977170
N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenyl)formamide I-1
To a stirred solution of 580 mg (2 mmol) of 3,7,11, 15-tetramethyl-2,6,10,14-hexadecatetraenylamine (hereinafter abbreviated as tetraprenylamine) II-1 in 20 ml of anhydrous tetrahydrofuran is added 953 mg (8 mmol) of N,N-dimethylformamide dimethylacetal. The mixture is heated under reflux for 3 hours, mixed with 15 ml of 10% aqueous sodium carbonate, and stirred at room temperature for 4 hours. The reaction mixture is concentrated, and the resulting residue is dissolved in 50 ml of CH2Cl2 and washed twice with 50 ml of water. The resulting mixture is dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue is purified by silica-gel column chromatography and eluted with AcOEt to give 410 mg of the titled compound I-1 as colorless oil.

reactant | 3,7,11, 15-tetramethyl-2,6,10,14-hexadecatetraenylamine | 2 mmol, 580 mg | CC(=CCN)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H35N
reactant | N,N-dimethylformamide dimethylacetal | 8 mmol, 953 mg | COC(N(C)C)OC | C5H13NO2
reactant | sodium carbonate | 15 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenyl)formamide | 410 mg, Yield: 64.7% | CC(=CCNC=O)CCC=C(CCC=C(CCC=C(C)C)C)C | C21H35NO
